US04471116
Preparation of (R)-1-(1-methylethylamino)-3-[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]piperazin-1-yl]ethoxy]phenoxy]-2-propanol, trihydrochloride
Using the conditions outlined in method A, 11.7 g of 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl)piperazine was reacted with 7.5 g of (R)-1-(4-hydroxyphenoxy)-3-(1-methylethyl)amino-2-propanol to give, after recrystallization from methanol-ethyl acetate and from methanol-ethanol, the trihydrochloride salt of (S)-1-(1-methylethylamino)-3-[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]piperazin-1-yl]ethoxy]phenoxy]-2-propanol, trihydrochloride, mp 251.5°-253°; [α]D25 +10.37° (c, 1.0, methanol).

reactant | 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl)piperazine | 11.7 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCCl | C21H25Cl2N3S
reactant | (R)-1-(4-hydroxyphenoxy)-3-(1-methylethyl)amino-2-propanol | 7.5 g | OC1=CC=C(OC[C@@H](CNC(C)C)O)C=C1 | C12H19NO3
product | (R)-1-(1-methylethylamino)-3-[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]piperazin-1-yl]ethoxy]phenoxy]-2-propanol, trihydrochloride | Cl.Cl.Cl.CC(C)NC[C@H](COC1=CC=C(C=C1)OCCN1CCN(CC1)CCCN1C2=CC=CC=C2SC=2C=CC(=CC12)Cl)O | InChI=1S/C33H43ClN4O3S.3ClH/c1-25(2)35-23-27(39)24-41-29-11-9-28(10-12-29)40-21-20-37-18-16-36(17-19-37)14-5-15-38-30-6-3-4-7-32(30)42-33-13-8-26(34)22-31(33)38;;;/h3-4,6-13,22,25,27,35,39H,5,14-21,23-24H2,1-2H3;3*1H/t27-;;;/m1.../s1
